US05405851
3-Amino-8-bromo-5,6-dihydrobenzo[f]quinazolin-1(2H)-one-9-sulfonyl chloride (2.00 g, 4.50 mmole) and N-(4-aminobenzoyl)-L-glutamic acid diethyl ester (7.26 g, 22.5 mmole) (Aldrich) were placed together in a test tube and melted at 175° C. The mixture was heated for 1 hour, 20 minutes, the cooled residue suspended in methylene chloride and filtered to remove undissolved solid. The filtrate was evaporated to dryness and the residue subjected to chromatography on a Waters Prep 500 instrument (silica column, elution with methanol/methylene chloride (1:24)). The combined fractions containing product were evaporated and the residue dried under high vacuum. The solid was suspended in boiling ethanol (900 ml), the suspension cooled to room temperature and filtered to give diethyl N-(4-(((3-amino-8-bromo-1,2,5,6-tetrahydro-1-oxobenzo[f]quinazolin-9-yl)sulfonyl)amino)benzoyl)-L-glutamate (0.794 g, 26%). Mp>250° C. 1H NMR (DMSO-d6, 200 MHz) δ: 1.12 (t, J=7 Hz, 3H, ester-CH 3), 1.14 (t, J=7 Hz, 3H, ester-CH3), 1.89-2.09 (m, 2H, glu-CH2), 2.37 (t, J=7 Hz, 2H, glu-CH2), 2.48-2.59 (m, 2H, Ar CH2), 2.77-2.85 (m, 2H, Ar CH2), 3.99 (q, J=7 Hz,2H,ester CH2), 4.05 (q, J=7 Hz, 2H, ester CH2), 4.29-4.40 (m, 1H, glu-CH), 6.84 (br s, 2H, NH2), 7.14 (d, J=9 Hz, 2H, Ar), 7.54 (s, 1H, Ar), 7.69 (d, J=9 Hz, 2H, Ar), 8.48 (d, J=8 Hz, 1H, NH), 9.37 (s, 1H, Ar), 10.87 (br s, 1H, NH), 11.04 (br s, 1H, NH). Anal. Calculated for C28H30BrN5O 8 S: 1/4H2O C,49.38; H,4.51; Br,11.73; N,10.20; S,4.71. Found: C,49.33; H,4.40; Br,11.79; N,10.20; S,4.74.

reactant | 3-Amino-8-bromo-5,6-dihydrobenzo[f]quinazolin-1(2H)-one-9-sulfonyl chloride | 4.50 mmole, 2.00 g | NC1=NC=2CCC3=C(C2C(N1)=O)C=C(C(=C3)Br)S(=O)(=O)Cl | C12H9BrClN3O3S
reactant | N-(4-aminobenzoyl)-L-glutamic acid diethyl ester | 22.5 mmole, 7.26 g | C(C)OC([C@@H](NC(C1=CC=C(C=C1)N)=O)CCC(=O)OCC)=O | C16H22N2O5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | diethyl N-(4-(((3-amino-8-bromo-1,2,5,6-tetrahydro-1-oxobenzo[f]quinazolin-9-yl)sulfonyl)amino)benzoyl)-L-glutamate | 0.794 g, 26% | NC1=NC=2CCC3=C(C2C(N1)=O)C=C(C(=C3)Br)S(=O)(=O)NC3=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C3 | C28H30BrN5O8S
